US05932601
A mixture of 4-[4-[2-(2-furyl)-5-methyl-4-oxazolyl methoxy]-3-methoxyphenyl]butanoic acid (106 g), isopropyl iodide (58.2 g), potassium carbonate (47.3 g) and N,N-dimethylformamide (DMF) (100 ml) was stirred for 4 hours at temperatures ranging from 65 to 70° C. The reaction mixture was poured into ice-water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2), was obtained isopropyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]butanoate (107 g, 91%), which was recrystallized from acetone-hexane to give colorless needles, m.p.45-46° C.

reactant | 4-[4-[2-(2-furyl)-5-methyl-4-oxazolyl methoxy]-3-methoxyphenyl]butanoic acid | 106 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCCC(=O)O)OC)C | C20H21NO6
reactant | isopropyl iodide | 58.2 g | C(C)(C)I | C3H7I
reactant | potassium carbonate | 47.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | isopropyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]butanoate | 107 g, 91% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCCC(=O)OC(C)C)OC)C | C23H27NO6
